US06048864
(b) 2-Benzyloxy-3,4-dimethoxybenzonitrile
A slurry of sodium acetate (17.06 g, 0.208 mol) and hydroxylamine (14.45 g, 0.208 mol) in glacial acetic acid (120 ml) was added to 2-benzyloxy-3,4-dimethoxybenzaldehyde (28.3 g, 0.104 mol) and the resulting suspension stirred at reflux for 18 hours. On cooling, water (250 ml) was added and the mixture extracted with dichloromethane (500 ml). The combined organic extracts were dried (MgSO4), filtered and evaporated under reduced pressure. The crude product was purified on silica gel eluting with hexane:ethyl acetate (80:20 v/v) to give the subtitle compound as an oil that crystallised on standing (21.06 g, 75%). Rf 0.52 (ethyl acetate:hexane, 1:1, v/v). MS m/z 270 (MH)+.

reactant | sodium acetate | 0.208 mol, 17.06 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine | 0.208 mol, 14.45 g | NO | H3NO
reactant | 2-benzyloxy-3,4-dimethoxybenzaldehyde | 0.104 mol, 28.3 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1OC)OC | C16H16O4
reactant | water | 250 ml | O | H2O
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 2-Benzyloxy-3,4-dimethoxybenzonitrile | C(C1=CC=CC=C1)OC1=C(C#N)C=CC(=C1OC)OC | C16H15NO3
